US08053457B2
[4-(2-Pyrrolidin-1-yl-ethyl)-piperazin-1-yl]-acetonitrile
The title compound is synthesized by coupling of 1-(2-Pyrrolidin-1-yl-ethyl)-piperazine (commercially available from ABCR GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless solid; ES-MS: M+H=223.3.

reactant | 1-(2-Pyrrolidin-1-yl-ethyl)-piperazine | N1(CCCC1)CCN1CCNCC1 | C10H21N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [4-(2-Pyrrolidin-1-yl-ethyl)-piperazin-1-yl]-acetonitrile | N1(CCCC1)CCN1CCN(CC1)CC#N | C12H22N4
